US08114891B2
2-(Quinuclidin-4-yl)acetyl chloride may be made by converting (quinuclidin-4-yl)methanol (vide supra) to the mesylate (methanesulfonylchloride/triethylamine in chloroform) which is then treated with sodium cyanide in dimethylformamide to form (quinuclidin-4-yl)acetonitrile. Heating this in ethanol saturated with hydrogen chloride gas produces the corresponding ethyl ester which is hydrolyzed to the acid by treatment with 6N hydrochloric acid. Finally, the acid is converted to the acid chloride as described above.

reactant | 2-(Quinuclidin-4-yl)acetyl chloride | N12CCC(CC1)(CC2)CC(=O)Cl | C9H14ClNO
reactant | (quinuclidin-4-yl)methanol | N12CCC(CC1)(CC2)CO | C8H15NO
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (quinuclidin-4-yl)acetonitrile | N12CCC(CC1)(CC2)CC#N | C9H14N2
